US05494928
A suspension of 6.3 g of ethyl 4-chloro-5-fluoroindole-2-carboxylate in 260 ml of ethanol was treated with 130 ml of 2N sodium hydroxide solution and stirred for 3 hours. Ethanol was evaporated and the reaction solution was adjusted to pH 1 with 25% hydrochloric acid. The precipitate was washed with water and dried. There were obtained 5.3 g (96%) of crude 4-chloro-5-fluoroindole-2-carboxylic acid which was used in the next step without further purification.

reactant | ethyl 4-chloro-5-fluoroindole-2-carboxylate | 6.3 g | ClC1=C2C=C(NC2=CC=C1F)C(=O)OCC | C11H9ClFNO2
reactant | sodium hydroxide | 2N, 130 ml | [OH-].[Na+]
solvent | ethanol | 260 ml | C(C)O | C2H6O
product | 4-chloro-5-fluoroindole-2-carboxylic acid | 5.3 g, 96% | ClC1=C2C=C(NC2=CC=C1F)C(=O)O | C9H5ClFNO2
